US05430023
A solution of Boc-D-phenylglycine (15.0 g, 59.7 mmole) and proline benzyl ester hydrochloride (14.43 g, 59.7 mmole) in 60 ml of DMF was cooled to 0° C. and N,N-diisopropylethylamine (10.3 ml, 59.7 mmole) was added followed by 1-hydroxybenzotriazole hydrate (8.1 g, 59.7 mmole) and DCC (12.3 g, 59.7 mmole). The reaction mixture was stirred for 3 days at room temperature after which it was filtered and the filtrate was evaporated to an oil under vacuum. The oil was dissolved in 200 ml of ethyl acetate and 150 ml of water and after shaking the organic layer was separated, washed three times with 100 ml portions of 0.1N HCl, once with 150 ml of water, three times with 100 ml portion of 5% sodium bicarbonate and again with 150 ml of water. The washed organic solution was dried over MgSO4 and then was evaporated under vacuum to provide 24.8 g of Boc-D-Phg-Pro-OBzl as a solid (95% of theory): TLC Rf (A) 0.75; FAB-MS 439 (M+).

reactant | Boc-D-phenylglycine | 59.7 mmole, 15.0 g | CC(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)C(=O)O | C13H17NO4
reactant | proline benzyl ester hydrochloride | 59.7 mmole, 14.43 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | N,N-diisopropylethylamine | 59.7 mmole, 10.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole hydrate | 59.7 mmole, 8.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | DCC | 59.7 mmole, 12.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | Boc-D-Phg-Pro-OBzl | 24.8 g | N([C@H](C1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C25H30N2O5
